US04393210
A mixture of 21.6 g of 4-ethoxycarbonyl-1(2H)-isoquinolone, 25 g of anhydrous potassium carbonate and 100 ml of dimethylformamide was heated at 100° C. for 2 hours. Then, 14 ml of 3-chloropropanol was added thereto and the mixture was heated at 110° C. for 4 hours. The solvent was distilled off and the residue was extracted with dichloromethane. The extract was washed with water, dried and the solvent was distilled off. 120 ml of an ethanolic solution of 5.5 g of potassium hydroxide was added to the residue, and the mixture was warmed. After cooling, the reaction mixture was poured into ice-water and then filtered. The filtrate was rendered neutral with dilute acetic acid, and the precipitated crystals were filtered and recrystallized from a mixture of ethanol and petroleum ether to obtain 12.5 g of 4-carboxy-2-(3-hydroxypropyl)-1(2H)-isoquinolone having a melting point of 205° C. as colorless prisms.

reactant | 4-ethoxycarbonyl-1(2H)-isoquinolone | 21.6 g | C(C)OC(=O)C1=CNC(C2=CC=CC=C12)=O | C12H11NO3
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropanol | 14 ml | ClCCCO | C3H7ClO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-carboxy-2-(3-hydroxypropyl)-1(2H)-isoquinolone | 12.5 g | C(=O)(O)C1=CN(C(C2=CC=CC=C12)=O)CCCO | C13H13NO4
